US08357711B2
1-(3-Chlorophenyl)-2-(3-methylisoxazol-5-yl)ethanol
To a solution of 3,5-dimethylisoxazole (104 g, 1.07 mol, 1 eq) in THF (1 L) cooled to −78° C. under nitrogen, a solution of lithiumdiisopropylamide (1.8M ethylbenzene in THF) (630 mL, 1.134 mol, 1.06 eq) was added dropwise. After 1 hr, a solution of 3-chlorobenzaldehyde 100 g, 0.711 mole, 0.66 eq) in THF (300 mL) was added drop wise at −78° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. It was cooled to 0° C., and quenched by saturated ammonium chloride solution (130 mL). The organic layer was concentrated to dryness. Water (1 L) was added to the residue was extracted with ethyl acetate (2×1 L). Combined organic extracts were washed with brine (700 mL) dried over anhydrous sodium sulfate. Concentrated and purified by column chromatography (50% ethyl acetate in hexane) over silica gel using a mixture of ethyl acetate and hexanes as eluant. The title compound was obtained as viscous brown oil (120 g, 0.507 mol, 48%).

reactant | 3,5-dimethylisoxazole | 1.07 mol, 104 g, 1 eq | CC1=NOC(=C1)C | C5H7NO
reactant | lithiumdiisopropylamide | 1.134 mol, 1.8M, 630 mL, 1.06 eq | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-chlorobenzaldehyde | 0.711 mole, 100 g, 0.66 eq | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-(3-Chlorophenyl)-2-(3-methylisoxazol-5-yl)ethanol | ClC=1C=C(C=CC1)C(CC1=CC(=NO1)C)O | C12H12ClNO2
